US08748415B2
3-fluoro-4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-((3-oxo-3-(pyrrolidin-1-yl)propylamino)methyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid
The title compound was prepared in 72% yield following steps 5 and 6, using methyl 3-fluoro-4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-formyl-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate and 3-amino-1-(pyrrolidin-1-yl)propan-1-one hydrochloride as the reactant amine MS: m/e 687.5 (MH+), 1.76 min (method 2). 1H NMR (400 MHz, MeOD) δ ppm 0.91 (s, 3H) 0.96 (s, 3H) 1.05 (s, 3H) 1.09 (s, 3H) 1.17 (s, 3H) 1.73 (s, 3H) 0.85-1.85 (m, 20H) 1.87-1.96 (m, 2H) 2.01 (dt, J=13.36, 6.74 Hz, 2H) 2.04-2.12 (m, 1H) 2.16 (dd, J=17.07, 6.53 Hz, 1H) 2.48-2.57 (m, 1H) 2.81 (t, J=6.02 Hz, 2H) 2.88 (d, J=12.80 Hz, 1H) 3.33-3.43 (m, 3H) 3.43-3.52 (m, 4H) 4.65 (s, 1H) 4.76 (d, J=1.25 Hz, 1H) 5.35 (dd, J=6.02, 1.51 Hz, 1H) 7.22 (t, J=7.53 Hz, 1H) 7.64 (dd, J=9.79, 1.25 Hz, 1H) 7.75 (dd, J=8.03, 1.51 Hz, 1H). 19F NMR (376 MHz, MeOD) δ ppm −113.36 (s, 1 F).

reactant | methyl 3-fluoro-4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-formyl-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | FC=1C=C(C(=O)OC)C=CC1C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C=O)C)C)(C)C | C38H51FO3
reactant | 3-amino-1-(pyrrolidin-1-yl)propan-1-one hydrochloride | Cl.NCCC(=O)N1CCCC1
product | 3-fluoro-4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-((3-oxo-3-(pyrrolidin-1-yl)propylamino)methyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 72% yield | FC=1C=C(C(=O)O)C=CC1C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)CNCCC(N5CCCC5)=O)C)C)(C)C | C44H63FN2O3
